US07754744B2
Step 5: 4-[tert-Butoxycarbonyl-(5-hydroxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-[tert-butoxycarbonyl-(5-tert-butoxycarbonyloxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (6.75 g, 13.7 mmol, 1.0 equiv) in a mixture of THF/methanol (1:1) (100 mL) at 3° C. was added drop by drop a solution of 1 M LiOH (34.2 mL, 34.5 mmol, 2.5 equiv) and after the addition was completed the mixture warmed up to rt. After 18 h, the reaction mixture was poured into cold water and extracted three times with dichloromethane. The combined organic layers were washed with brine and water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 4.31 g (80%) of the title compound as orange foam. MS (ISP): =394.1 [M+H]−.

reactant | 4-[tert-butoxycarbonyl-(5-tert-butoxycarbonyloxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 13.7 mmol, 6.75 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=C(C=C1)OC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H39N3O7
reactant | LiOH | 34.5 mmol, 1 M, 34.2 mL, 2.5 equiv | [Li+].[OH-]
reactant | water | O | H2O
solvent | THF methanol | 100 mL | C1CCOC1.CO
product | 4-[tert-Butoxycarbonyl-(5-hydroxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 4.31 g, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=C(C=C1)O)C(=O)OC(C)(C)C | C20H31N3O5
